***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19531KCS
* Date: 09/25/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS407 - SEPTEMBER 2013
* Model Version: Final 2.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
* Final 2.00 - 08/06/2014
* Corrected base capacitance value
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	3.09E-09	)
+ (	1	3.06E-09	)
+ (	2	3.05E-09	)
+ (	3	3.04E-09	)
+ (	4	3.03E-09	)
+ (	5	3.03E-09	)
+ (	6	3.04E-09	)
+ (	7	3.07E-09	)
+ (	8	3.10E-09	)
+ (	9	3.11E-09	)
+ (	10	3.11E-09	)
+ (	11	3.11E-09	)
+ (	12	3.11E-09	)
+ (	13	3.11E-09	)
+ (	14	3.11E-09	)
+ (	15	3.11E-09	)
+ (	16	3.10E-09	)
+ (	17	3.10E-09	)
+ (	18	3.10E-09	)
+ (	19	3.10E-09	)
+ (	20	3.10E-09	)
+ (	21	3.09E-09	)
+ (	22	3.09E-09	)
+ (	23	3.09E-09	)
+ (	24	3.09E-09	)
+ (	25	3.09E-09	)
+ (	26	3.08E-09	)
+ (	27	3.08E-09	)
+ (	28	3.08E-09	)
+ (	29	3.07E-09	)
+ (	30	3.07E-09	)
+ (	31	3.07E-09	)
+ (	32	3.07E-09	)
+ (	33	3.06E-09	)
+ (	34	3.06E-09	)
+ (	35	3.06E-09	)
+ (	36	3.06E-09	)
+ (	37	3.06E-09	)
+ (	38	3.05E-09	)
+ (	39	3.05E-09	)
+ (	40	3.05E-09	)
+ (	41	3.05E-09	)
+ (	42	3.05E-09	)
+ (	43	3.05E-09	)
+ (	44	3.05E-09	)
+ (	45	3.05E-09	)
+ (	46	3.05E-09	)
+ (	47	3.05E-09	)
+ (	48	3.04E-09	)
+ (	49	3.04E-09	)
+ (	50	3.04E-09	)
+ (	51	3.04E-09	)
+ (	52	3.04E-09	)
+ (	53	3.04E-09	)
+ (	54	3.03E-09	)
+ (	55	3.03E-09	)
+ (	56	3.03E-09	)
+ (	57	3.03E-09	)
+ (	58	3.02E-09	)
+ (	59	3.02E-09	)
+ (	60	3.02E-09	)
+ (	61	3.02E-09	)
+ (	62	3.01E-09	)
+ (	63	3.01E-09	)
+ (	64	3.01E-09	)
+ (	65	3.01E-09	)
+ (	66	3.00E-09	)
+ (	67	3.00E-09	)
+ (	68	3.00E-09	)
+ (	69	2.99E-09	)
+ (	70	2.99E-09	)
+ (	71	2.99E-09	)
+ (	72	2.99E-09	)
+ (	73	2.98E-09	)
+ (	74	2.98E-09	)
+ (	75	2.98E-09	)
+ (	76	2.98E-09	)
+ (	77	2.97E-09	)
+ (	78	2.97E-09	)
+ (	79	2.97E-09	)
+ (	80	2.96E-09	)
+ (	81	2.96E-09	)
+ (	82	2.96E-09	)
+ (	83	2.95E-09	)
+ (	84	2.95E-09	)
+ (	85	2.95E-09	)
+ (	86	2.95E-09	)
+ (	87	2.94E-09	)
+ (	88	2.94E-09	)
+ (	89	2.94E-09	)
+ (	90	2.93E-09	)
+ (	91	2.93E-09	)
+ (	92	2.93E-09	)
+ (	93	2.93E-09	)
+ (	94	2.92E-09	)
+ (	95	2.92E-09	)
+ (	96	2.92E-09	)
+ (	97	2.92E-09	)
+ (	98	2.92E-09	)
+ (	99	2.92E-09	)
+ (	100	2.91E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	3.18E-10	)
+ (	1	2.68E-10	)
+ (	2	2.45E-10	)
+ (	3	2.29E-10	)
+ (	4	2.15E-10	)
+ (	5	2.00E-10	)
+ (	6	1.74E-10	)
+ (	7	1.21E-10	)
+ (	8	4.44E-11	)
+ (	9	2.70E-11	)
+ (	10	2.59E-11	)
+ (	11	2.49E-11	)
+ (	12	2.42E-11	)
+ (	13	2.35E-11	)
+ (	14	2.30E-11	)
+ (	15	2.26E-11	)
+ (	16	2.23E-11	)
+ (	17	2.20E-11	)
+ (	18	2.19E-11	)
+ (	19	2.18E-11	)
+ (	20	2.19E-11	)
+ (	21	2.20E-11	)
+ (	22	2.23E-11	)
+ (	23	2.27E-11	)
+ (	24	2.32E-11	)
+ (	25	2.38E-11	)
+ (	26	2.46E-11	)
+ (	27	2.55E-11	)
+ (	28	2.64E-11	)
+ (	29	2.74E-11	)
+ (	30	2.84E-11	)
+ (	31	2.92E-11	)
+ (	32	2.99E-11	)
+ (	33	3.03E-11	)
+ (	34	3.03E-11	)
+ (	35	3.00E-11	)
+ (	36	2.94E-11	)
+ (	37	2.84E-11	)
+ (	38	2.72E-11	)
+ (	39	2.59E-11	)
+ (	40	2.44E-11	)
+ (	41	2.30E-11	)
+ (	42	2.15E-11	)
+ (	43	2.02E-11	)
+ (	44	1.89E-11	)
+ (	45	1.77E-11	)
+ (	46	1.65E-11	)
+ (	47	1.56E-11	)
+ (	48	1.47E-11	)
+ (	49	1.39E-11	)
+ (	50	1.32E-11	)
+ (	51	1.26E-11	)
+ (	52	1.21E-11	)
+ (	53	1.16E-11	)
+ (	54	1.12E-11	)
+ (	55	1.09E-11	)
+ (	56	1.07E-11	)
+ (	57	1.04E-11	)
+ (	58	1.02E-11	)
+ (	59	1.01E-11	)
+ (	60	9.95E-12	)
+ (	61	9.84E-12	)
+ (	62	9.74E-12	)
+ (	63	9.66E-12	)
+ (	64	9.58E-12	)
+ (	65	9.51E-12	)
+ (	66	9.46E-12	)
+ (	67	9.40E-12	)
+ (	68	9.35E-12	)
+ (	69	9.31E-12	)
+ (	70	9.27E-12	)
+ (	71	9.23E-12	)
+ (	72	9.19E-12	)
+ (	73	9.16E-12	)
+ (	74	9.12E-12	)
+ (	75	9.10E-12	)
+ (	76	9.08E-12	)
+ (	77	9.06E-12	)
+ (	78	9.04E-12	)
+ (	79	9.03E-12	)
+ (	80	9.03E-12	)
+ (	81	9.03E-12	)
+ (	82	9.05E-12	)
+ (	83	9.09E-12	)
+ (	84	9.15E-12	)
+ (	85	9.27E-12	)
+ (	86	9.48E-12	)
+ (	87	9.78E-12	)
+ (	88	9.75E-12	)
+ (	89	9.72E-12	)
+ (	90	9.69E-12	)
+ (	91	9.66E-12	)
+ (	92	9.63E-12	)
+ (	93	9.60E-12	)
+ (	94	9.57E-12	)
+ (	95	9.55E-12	)
+ (	96	9.51E-12	)
+ (	97	9.51E-12	)
+ (	98	9.51E-12	)
+ (	99	9.51E-12	)
+ (	100	9.51E-12	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+ (	0	4.06E-09	)
+ (	1	3.48E-09	)
+ (	2	3.08E-09	)
+ (	3	2.81E-09	)
+ (	4	2.60E-09	)
+ (	5	2.42E-09	)
+ (	6	2.23E-09	)
+ (	7	1.97E-09	)
+ (	8	1.59E-09	)
+ (	9	1.30E-09	)
+ (	10	1.23E-09	)
+ (	11	1.17E-09	)
+ (	12	1.12E-09	)
+ (	13	1.07E-09	)
+ (	14	1.04E-09	)
+ (	15	1.00E-09	)
+ (	16	9.71E-10	)
+ (	17	9.44E-10	)
+ (	18	9.21E-10	)
+ (	19	9.02E-10	)
+ (	20	8.88E-10	)
+ (	21	8.77E-10	)
+ (	22	8.71E-10	)
+ (	23	8.69E-10	)
+ (	24	8.69E-10	)
+ (	25	8.72E-10	)
+ (	26	8.76E-10	)
+ (	27	8.79E-10	)
+ (	28	8.80E-10	)
+ (	29	8.78E-10	)
+ (	30	8.72E-10	)
+ (	31	8.63E-10	)
+ (	32	8.50E-10	)
+ (	33	8.35E-10	)
+ (	34	8.18E-10	)
+ (	35	8.00E-10	)
+ (	36	7.82E-10	)
+ (	37	7.63E-10	)
+ (	38	7.45E-10	)
+ (	39	7.27E-10	)
+ (	40	7.10E-10	)
+ (	41	6.93E-10	)
+ (	42	6.76E-10	)
+ (	43	6.60E-10	)
+ (	44	6.44E-10	)
+ (	45	6.29E-10	)
+ (	46	6.14E-10	)
+ (	47	5.99E-10	)
+ (	48	5.84E-10	)
+ (	49	5.70E-10	)
+ (	50	5.55E-10	)
+ (	51	5.41E-10	)
+ (	52	5.28E-10	)
+ (	53	5.15E-10	)
+ (	54	5.02E-10	)
+ (	55	4.89E-10	)
+ (	56	4.78E-10	)
+ (	57	4.67E-10	)
+ (	58	4.56E-10	)
+ (	59	4.47E-10	)
+ (	60	4.38E-10	)
+ (	61	4.29E-10	)
+ (	62	4.21E-10	)
+ (	63	4.14E-10	)
+ (	64	4.08E-10	)
+ (	65	4.01E-10	)
+ (	66	3.96E-10	)
+ (	67	3.90E-10	)
+ (	68	3.85E-10	)
+ (	69	3.81E-10	)
+ (	70	3.76E-10	)
+ (	71	3.72E-10	)
+ (	72	3.68E-10	)
+ (	73	3.64E-10	)
+ (	74	3.61E-10	)
+ (	75	3.58E-10	)
+ (	76	3.55E-10	)
+ (	77	3.52E-10	)
+ (	78	3.49E-10	)
+ (	79	3.46E-10	)
+ (	80	3.43E-10	)
+ (	81	3.41E-10	)
+ (	82	3.39E-10	)
+ (	83	3.36E-10	)
+ (	84	3.34E-10	)
+ (	85	3.32E-10	)
+ (	86	3.30E-10	)
+ (	87	3.27E-10	)
+ (	88	3.26E-10	)
+ (	89	3.24E-10	)
+ (	90	3.22E-10	)
+ (	91	3.21E-10	)
+ (	92	3.19E-10	)
+ (	93	3.18E-10	)
+ (	94	3.17E-10	)
+ (	95	3.16E-10	)
+ (	96	3.15E-10	)
+ (	97	3.15E-10	)
+ (	98	3.15E-10	)
+ (	99	3.15E-10	)
+ (	100	3.15E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19531KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.00e-3  
 .PARAM  ptrc2    2.0e-5
 .PARAM  pwidthP  5.788666666666666666666666666666666666666666666667
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
xcgd	5	10	1	3	cgd
cgs	5	8	1.2e-9
xcds	8	10	1	3	cds
DBD	3	1	DBD
LGG   	2  	5	2.1e-9
RGG   	5	11	3.4
RSB  	12	9	RTEMP 0.23166e-3
R   	9	8	RTEMP 0.23166e-3
RSP   	8	6	0.55e-3
L   	6	3	0.47e-9
RSL   	6	3	0.5
RDD   	7	10	RTEMP {2.467e-3+2.57e-3}
RDP   	4	7	0.5e-4
LDD   	1	4	0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.37        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.15
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.500e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL DBD D (CJO=1.00e-18 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=101
+ IS=3.0e-12 N=1.045 RS=1.7e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19531KCS
*$
*